US09428502B2
Compound 192.1. 4-Methyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole
Into a 1-L three neck round-bottom flask, which was purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 4-methyl-1H-imidazole (10 g, 121.8 mmol) in tetrahydrofuran (200 mL). This was followed by the addition of sodium hydride (7.32 g, 182.7 mmol, 60%) in several batches at 0° C. and stirred for 1 h at room temperature. To this was added SEM-Cl (30.5 g, 199.7 mmol) at 0° C. The mixture was stirred for 1 h at room temperature, then carefully quenched with 50 mL of brine. The aqueous phase was extracted with 1×800 mL of ethyl acetate. The organic layer was washed with 1×300 mL of brine, 2×300 mL of sodium bicarbonate (sat.), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography with ethyl acetate/petroleum ether (1:1) ethyl acetate as eluent to furnish 9 g (35%) of the title compound as a yellow oil.

reactant | 4-methyl-1H-imidazole | 121.8 mmol, 10 g | CC=1N=CNC1 | C4H6N2
reactant | sodium hydride | 182.7 mmol, 7.32 g | [H-].[Na+]
reactant | SEM-Cl | 199.7 mmol, 30.5 g | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 4-Methyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole | 9 g, 35% | CC=1N=CN(C1)COCC[Si](C)(C)C | C10H20N2OSi
